US05908858
81(i) Diethyl α-(4-methoxyphenacyl)malonate
3.50 g (21.8 mmol) of diethyl malonate were dissolved in 60 ml of anhydrous tetrahydrofuran, and 2.70 g (24.0 mmol) of potassium t-butoxide were added to the resulting solution, whilst ice-cooling. The mixture was then stirred for 1 hour. At the end of this time, a solution of 5.00 g (21.8 mmol) of 4-methoxyphenacyl bromide in 40 ml of anhydrous tetrahydrofuran was slowly added dropwise to the mixture, whilst ice-cooling. The mixture was stirred, whilst ice-cooling for 1 hour, and then a saturated aqueous solution of ammonium chloride was added, and the mixture was extracted with ethyl acetate. The organic extract was washed with water and dried over anhydrous magnesium sulfate, and then the solvent was removed by distillation under reduced pressure. The residue thus obtained was applied to a silica gel chromatography column and eluted with a 1:4 by volume mixture of ethyl acetate and hexane, to give 4.87 g of the title compound as a slightly yellow oily substance (yield 73%).

reactant | diethyl malonate | 21.8 mmol, 3.50 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | potassium t-butoxide | 24.0 mmol, 2.70 g | CC(C)([O-])C.[K+]
reactant | 4-methoxyphenacyl bromide | 21.8 mmol, 5.00 g | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | Diethyl α-(4-methoxyphenacyl)malonate | 4.87 g, yield 73% | COC1=CC=C(C(CC(C(=O)OCC)C(=O)OCC)=O)C=C1 | C16H20O6
